US07888364B2
Procedure B was performed with N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide (440 mg, 1.0 mmol) and 4-methyl-2-pyridylzinc bromide (5 mL of a 0.5 M solution in THF). The crude residue was purified silica gel chromatography (5-100% Ethyl acetate/Hexanes) to yield N-(4-chloro-3-(4-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide as a white solid: TLC Rf=0.43 (35% ethyl acetate/hexanes); 1H NMR (CDCl3, 400 MHz) δ 10.39 (bs, 1H), 8.11 (dd, 1H), 7.87 (s, 1H), 7.61 (d, 1H), 7.59 (d, 1H), 7.49 (m, 3H), 2.66 (s, 3H), 2.21 (s, 3H); MS (Q1) 406.1 (M)+.

reactant | N-(4-Chloro-3-iodophenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | 1.0 mmol, 440 mg | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)I | C14H9ClF3IN2O
reactant | 4-methyl-2-pyridylzinc bromide | [Br-].CC1=CC(=NC=C1)[Zn+]
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-chloro-3-(4-methylpyridin-2-yl)phenyl)-6-(trifluoromethyl)-2-methylpyridine-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)C1=NC=CC(=C1)C | C20H15ClF3N3O
